US05110815
5,6,7,8-Tetrahydro-2-(phenylmethoxy)-5-(phenylmethyl)-5-quinolinamine
5,6,7,8-Tetrahydro-N,2-bis(phenylmethoxy)-5-(phenylmethyl)-5-quinolinamine (40.0 g) in tetrahydrofuran (90 ml) was treated dropwise with borane-tetrahydrofuran complex (1M in tetrahydrofuran, 267 ml) at 0° C. The solution was heated under reflux for 3 hrs, cooled to 0° C. and water (30 ml) was added. The reaction mixture was concentrated in vacuo, 20% potassium hydroxide solution (60 ml) was added, and the mixture was heated under reflux for 8 hours. The mixture was cooled, acidified with conc hydrochloric acid, and washed with diethyl ether. The aqueous phase was basified with 20% potassium hydroxide solution and extracted with dichloromethane. The combined organic layers were washed with brine, dried over potassium carbonate, filtered, and the filtrate was concentrated to afford 19.1 g (37.0%) of product.

reactant | 5,6,7,8-Tetrahydro-N,2-bis(phenylmethoxy)-5-(phenylmethyl)-5-quinolinamine | 40.0 g | C1(=CC=CC=C1)CONC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C30H30N2O2
reactant | borane tetrahydrofuran | 1M, 267 ml | B.O1CCCC1
reactant | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 5,6,7,8-Tetrahydro-2-(phenylmethoxy)-5-(phenylmethyl)-5-quinolinamine | 19.1 g, 37.0% | C1(=CC=CC=C1)COC1=NC=2CCCC(C2C=C1)(N)CC1=CC=CC=C1 | C23H24N2O
